US09107916B2
B. ethyl (E)-3-[2-(4-cyanopyridin-2-yl)hydrazinyl]-2-methylprop-2-enoate
A solution of ethyl (E)-3-(dimethylamino)-2-methylprop-2-enoate (668 mg, 4.25 mmol) and 2-hydrazinylpyridine-4-carbonitrile (570 mg, 4.25 mmol, PREPARATION 2) in 2 mL HOAc and 10 mL EtOH was charged to a flask and the mixture was heated to 90° C. for 30 min. Cooled to room temperature and removed the solvent. The residue was dissolved in ethylacetate and water, aqueous basified with NaHCO3 sat (pH=8), extracted with ethylacetate. The organic phase was washed with brine and dried with anhydrous sodium sulfate and then purified by silica gel chromatograph to give 0.65 g of the title compound (62%). [M+H] Calc'd for C12H14N4O2, 247. Found, 247.

reactant | ethyl (E)-3-(dimethylamino)-2-methylprop-2-enoate | 4.25 mmol, 668 mg | CN(/C=C(/C(=O)OCC)\C)C | C8H15NO2
reactant | 2-hydrazinylpyridine-4-carbonitrile | 4.25 mmol, 570 mg | N(N)C1=NC=CC(=C1)C#N | C6H6N4
solvent | HOAc | 2 mL | CC(=O)O | C2H4O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | ethyl (E)-3-[2-(4-cyanopyridin-2-yl)hydrazinyl]-2-methylprop-2-enoate | 0.65 g, 62% | C(#N)C1=CC(=NC=C1)NN/C=C(/C(=O)OCC)\C | C12H14N4O2
